* NGSPICE file created from inverter.ext - technology: gf180mcuD

.subckt inverter A Y VP VN
X0 Y A VN VSUBS nfet_03v3 ad=0.2117p pd=2.07u as=0.1974p ps=1.94u w=0.22u l=0.28u
X1 Y A VP w_n320_210# pfet_03v3 ad=0.2117p pd=2.07u as=0.1974p ps=1.94u w=0.22u l=0.28u
.ends

